US07872031B2
To a solution of 3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine (700 mg, 2.55 mmol) in dry CH3CN (20 mL) was added NBS (550 mg, 3.09 (mmol). The solution was stirred at RT for 1 h and poured into saturated NaHCO3 solution. The precipitate was collected by vacuum filtration and washed with water (700 mg, 78%) to produce 5-bromo-3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine [LC-MS m/e=353/354.6 (M+H)]. Using the same procedure, 5-bromo-3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 5-bromo-3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 5-bromo-3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, 5-bromo-3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, and 5-bromo-3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine can be produced from 3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, 3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, and 3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, respectively.

reactant | 3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine | 2.55 mmol, 700 mg | FC1=C(C=CC=C1F)N1C(=NN=C1)C=1C(=NC=CN1)N | C12H8F2N6
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 5-bromo-3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1)N)C1=NN=CN1C1=C(C(=CC=C1)F)F | C12H7BrF2N6
